US04218559
Decahydro-2,6-dimethylpyrazino[2,3-b]pyrazine
To an ice-cold solution of 148 grams, 2.0 moles, of 1-methylethylenediamine in 150 ml of water was added dropwise 145 grams of 40% aqueous glyoxal (58 grams, 1.0 mole). After the addition was completed, the solution was stirred at 5° C. for one hour, then at room temperature for 5 hours. The solution was evaporated on an open tray, and the resulting semi-solid was stirred in 500 ml of acetonitrile and filtered to give 76 grams (46% of product, m.p. 228°-235° C. (dec). Recrystallization from ethanol gave white crystals, m.p. 246-249 (dec.), literature m.p. 210° C.

reactant | 1-methylethylenediamine | CC(CN)N | C3H10N2
reactant | glyoxal | 1.0 mole, 145 grams | C(=O)C=O | C2H2O2
solvent | water | 150 ml | O | H2O
product | Decahydro-2,6-dimethylpyrazino[2,3-b]pyrazine | 46% | CC1CNC2C(NCC(N2)C)N1 | C8H18N4
